US07977354B2
Stage B: 3-bromo-5-methoxyquinoline
To a solution of 3-(tert-butoxycarbonylamino)-5-methoxyquinoline (2.74 g, 10 mmol) in aqueous 48% HBr (40 mL), NaNO2 (2.1 g, 30 mmol) in water (20 mL) is added at 0° C. The reaction mixture is stirred 1 hour. The reaction mixture is extrated with CH2Cl2 (3×30 mL). After drying over MgSO4, dichloromethane is evaporated affording the title compound.

reactant | 3-(tert-butoxycarbonylamino)-5-methoxyquinoline | 10 mmol, 2.74 g | C(C)(C)(C)OC(=O)NC=1C=NC2=CC=CC(=C2C1)OC | C15H18N2O3
reactant | NaNO2 | 30 mmol, 2.1 g | N(=O)[O-].[Na+]
reactant | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
reactant | HBr | 40 mL | Br | BrH
solvent | water | 20 mL | O | H2O
product | 3-bromo-5-methoxyquinoline | BrC=1C=NC2=CC=CC(=C2C1)OC | C10H8BrNO
